US05665718
A suspension of 7.0 g (0.0216 mol) of 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime in 70 ml of N,N-dimethylformamide was treated with 4.38 g (0.0256 mol) of chloroacetic anhydride. The yellow solution obtained was stirred at 100° for 2 hrs. and then completely freed from the solvents. The oily product was taken up in 300 ml of acetonitrile, whereupon the solution was treated with active charcoal, boiled at reflux and filtered while hot over 100 g of silica gel; the silica gel was rinsed with 200 ml of acetone and the filtrate was evaporated. The crystalline foam was suspended in 100 ml of ether and suction filtered. Additional material could be obtained from the mother liquor. There was obtained a total of 5.65 g (68%) of 7-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a ][1,4]benzodiazepin-6-one as white-yellowish crystals; m.p. 215°-218°.

reactant | 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime | 0.0216 mol, 7.0 g | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C(N)=NO)C)=O)F | C13H11ClFN5O2
reactant | chloroacetic anhydride | 0.0256 mol, 4.38 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | charcoal | C | CH4
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 7-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a ][1,4]benzodiazepin-6-one | 5.65 g, 68% | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C1=NOC(=N1)CCl)C)=O)F | C15H10Cl2FN5O2
